US07504410B2
4-Methylsulfanyl-3-nitro-benzoic acid (1 g, 4.69 mmole) was dissolved in methanol (25 ml) and cooled to 5° C. A solution of Oxone® (5.8 g) in water (20 ml) was added portionwise at the same temperature. The reaction mixture was allowed to stir overnight at ambient temperature, methanol was removed under reduced pressure. The suspension was diluted with water and the solid was filtered off and dried in vacuum to provide 4-Methanesulfonyl-3-nitro-benzoic acid in 89% yield (960 mg). ESI-MS: 246.

reactant | 4-Methylsulfanyl-3-nitro-benzoic acid | 4.69 mmole, 1 g | CSC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | methanol | 25 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 4-Methanesulfonyl-3-nitro-benzoic acid | 89% yield | CS(=O)(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO6S
